US06388084B1
To a suspension of 6-methyl-4-(trifluoromethyl)-1H-2-pyridone (2 g, 11.25 mmol) and potassium carbonate (4.68 g, 33.9 mmol) in DME (25 mL) was added iodomethane (9.62 g, 67.8 mmol) at room temperature and the reaction mixture was heated to reflux overnight. The reaction mixture was cooled to room temperature, poured into water (100 mL) and extracted with ethyl acetate (3×100 mL). The combined extracts were washed with brine solution (200 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent gave the crude product which was purified by silica gel chromatography on a Biotage (40 m) column to obtain 2.1 g (97% yield) of 1,6-dimethyl-4-(trifluoromethyl)-2-pyridone as a white solid: mp 80-82° C. EI-HRMS m/e calcd for C8H8F3NO (M+) 191.0558, found 191.0559.

reactant | 6-methyl-4-(trifluoromethyl)-1H-2-pyridone | 11.25 mmol, 2 g | CC1=CC(=CC(N1)=O)C(F)(F)F | C7H6F3NO
reactant | potassium carbonate | 33.9 mmol, 4.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 67.8 mmol, 9.62 g | IC | CH3I
reactant | water | 100 mL | O | H2O
solvent | DME | 25 mL | COCCOC | C4H10O2
product | 1,6-dimethyl-4-(trifluoromethyl)-2-pyridone | 2.1 g, 97% yield | CN1C(C=C(C=C1C)C(F)(F)F)=O | C8H8F3NO
